US07915250B2
1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-N-(2-hydroxyethyl)azetidine-3-carboxamide
To a solution of 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidine-3-carboxylic acid (15 mg, 0.03 mmol), prepared using procedures similar to those in Example 1, in N,N-dimethylformamide (2.00 mL) was added HBTU (38 mg, 0.10 mmol). The mixture was stirred for 15 minutes at room temperature followed by the addition of 2-aminoethanol (3.6 μL, 0.06 mmol) and N-methylmorpholine (110 μL, 1.00 mmol). The mixture was allowed to stir at room temperature for 3 d, then diluted the mixture with chloroform (20 mL), and washed with water (30 mL). The aqueous phase was back extracted with chloroform (10 mL). The combined organic phases were dried over sodium sulfate, filtered and the filtrate concentrated in vacuo. The residue was purified by high pressure liquid chromatography to afford the title compound (9.20 mg, 58%) as the trifluoroacetic acid salt: 1H NMR (400 MHz, CDCl3): 8.54 (s, 1H), 7.41-7.37 (m, 1H), 7.34-7.31 (m, 1H), 7.18-7.14 (m, 1H), 6.85-6.77 (m, 1H), 6.64-6.58 (m, 1H), 4.66 (br, 1H), 4.40-4.24 (br, 3H), 3.83-3.23 (br m, 7H), 1.18 (t, 3H); MS (EI) for C19H17F3IN3O3: 542 (MNa+).

reactant | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)azetidine-3-carboxylic acid | 0.03 mmol, 15 mg | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)C(=O)O)NC1=C(C=C(C=C1)I)F | C17H12F3IN2O3
reactant | HBTU | 0.10 mmol, 38 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-aminoethanol | 0.06 mmol, 3.6 μL | NCCO | C2H7NO
reactant | N-methylmorpholine | 1.00 mmol, 110 μL | CN1CCOCC1 | C5H11NO
solvent | N,N-dimethylformamide | 2.00 mL | CN(C=O)C | C3H7NO
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | 1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}carbonyl)-N-(2-hydroxyethyl)azetidine-3-carboxamide | 9.20 mg, 58% | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)C(=O)NCCO)NC1=C(C=C(C=C1)I)F | C19H17F3IN3O3
